US08283354B2
To (S)-{1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester (690 mg, 1.64 mmol) was added at room temperature 3 mL of 1:1 TFA:CH2Cl2. The reaction mixture was stirred for 55 min, diluted with 20 mL of CH2Cl2 and washed with 15 mL of satd. NaHCO3 solution. The organic layer was separated and dried over Na2SO4, and the solvent was removed under reduced pressure to give (S)-2-[4-(3-amino-pyrrolidin-1-yl)-7-methyl-quinazolin-2-yl]-phenol as an oil which was used without further purification.

reactant | (S)-{1-[2-(2-hydroxy-phenyl)-7-methyl-quinazolin-4-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | 1.64 mmol, 690 mg | C(C)(C)(C)OC(N[C@@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O)=O | C24H28N4O3
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-[4-(3-amino-pyrrolidin-1-yl)-7-methyl-quinazolin-2-yl]-phenol | N[C@@H]1CN(CC1)C1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C19H20N4O
